US05854409
Synthesis of N-(4-azido-2-nitrophenyl-N'-(N-((2-hydroxyethyldithio)-2-ethylamidosuccinimido)-3-aminopropyl)-N'-methyl-1,3-propanediamine
The reaction was carried out in the dark. A one necked flask was charged with 95.0 mg (1 eq., 0.375 mmole) (2-hydroxyethyldithio)ethylamidosuccinic acid in 1.5 ml DMF and this solution was then sequentially treated with 0.1154 g (1 eq., 0.375 mmole) N-(3-aminopropyl)-N'-(4-azido-2-nitrophenyl)-N-methyl-1,3-propanediamine in 2 ml methylene chloride, 57.5 μl, (1.1 eq., 41.74 mg, 0.4125 mmole) triethylamine (neat), and then 156.4 mg (1.1 eq., 0.4175 mmole) O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate in 1 ml DMF. The reaction was monitored by TLC and found to be complete after 15 min at which time the solvents were removed via vacuum transfer (bath temp. 40° C.). The residue was purified by flash chromatography. 1H NMR (CD3CN/TMS) δ: 1.17 (2H, J=7.29 Hz, CH2), 1.71 (2H, m, J=6.88 Hz, CH2), 1.89 (2H, t, J=6.99 Hz, CH2), 2.37 (2H, t, J=3.10 Hz, CH2), 2.40 (3H, s, CH3), 2.64 (2H, t, J=7.45 Hz, CH2), 2.69 (2H, t, J=7.27 Hz, CH2), 2.76 ((2H, t, J=6.69 Hz, CH2), 2.80 (2H, t, J=5.33 Hz, CH2), 3.01 (2H, q, J=7.31 Hz, CH2), 3.16 (2H, q, J=6.42 Hz, CH2), 3.40 (4H, m, J=6.48 Hz, 2×CH2), 3.70 (2H, t, J=6.30 Hz, CH2), 6.97 (2H, d, ArH), 7.18 (2H, dd, ArH), 7.77 (2H, d, NH). 13C NMR (CD3CN/TMS) δ: 27.2 (CH2), 27.8 (CH2), 32.25 (CH2), 32.28 (CH2), 38.60 (CH2), 38.80 (CH2), 39.7 (CH2), 42.2 (CH3), 42.4 (CH2), 42.5 (CH2), 56.3 (CH2), 56.4 (CH2), 61.4 (CH2), 116.6 (ArH), 117.3 (Ar), 128.9 (Q), 129.3 (Ar), 132.7 (Q), 144.6 (Q), 174.6 (C=O), 174.8 (C=O).

reactant | (2-hydroxyethyldithio)ethylamidosuccinic acid | 0.375 mmole, 95.0 mg, 1 eq. | OCCSSCC(=O)NC(C(=O)O)CC(=O)O | C8H13NO6S2
reactant | N-(3-aminopropyl)-N'-(4-azido-2-nitrophenyl)-N-methyl-1,3-propanediamine | 0.375 mmole, 0.1154 g, 1 eq. | NCCCN(CCCNC1=C(C=C(C=C1)N=[N+]=[N-])[N+](=O)[O-])C | C13H21N7O2
reactant | triethylamine | 0.4125 mmole, 41.74 mg, 1.1 eq. | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N',N'-tetramethyluronium hexafluorophosphate | 0.4175 mmole, 156.4 mg, 1.1 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-azido-2-nitrophenyl-N'-(N-((2-hydroxyethyldithio)-2-ethylamidosuccinimido)-3-aminopropyl)-N'-methyl-1,3-propanediamine | N(=[N+]=[N-])C1=CC(=C(C=C1)C(CCN(C)CCCNN1C(C(CC1=O)NC(CSSCCO)=O)=O)N)[N+](=O)[O-] | C21H31N9O6S2
